US07732626B2
Optically Active Form of (6-methoxy-2,3-dihydro-1-benzofuran-3-yl)acetic acid
To a mixture of (1,5-cyclooctadiene)rhodium trifluoromethanesulfonate (5.9 mg) and (S,S)-Et-FerroTANE (5.5 mg) was added methanol (2.5 mL) sufficiently substituted by argon gas, and the mixture was stirred at room temperature for 15 min. This was added to a mixture of (6-methoxy-1-benzofuran-3-yl)acetic acid (51.5 mg) and sodium methoxide (7 mg), and the mixture was stirred at room temperature for 5 hr under 0.7 MPa hydrogen atmosphere. The reaction mixture was quantified by HPLC. As a result, the enantiomeric excess was 86.2%, and the yield was 88.4%.

reactant | (6-methoxy-1-benzofuran-3-yl)acetic acid | 51.5 mg | COC1=CC2=C(C(=CO2)CC(=O)O)C=C1 | C11H10O4
reactant | sodium methoxide | 7 mg | C[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 2.5 mL | CO | CH4O
product | (6-methoxy-2,3-dihydro-1-benzofuran-3-yl)acetic acid | yield was 88.4% | COC1=CC2=C(C(CO2)CC(=O)O)C=C1 | C11H12O4
